US07091220B2
1-Ethyl-2-phenyl-3-(phenylpyrrolidin-1-yl-methyl)-1H-indole
The preparation was carried out in accordance with general synthesis instructions 4 from 1-ethyl-2-phenyl-1H-indole and 1-benzylidene-pyrrolidinium chloride.

reactant | 1-ethyl-2-phenyl-1H-indole | C(C)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C16H15N
reactant | 1-benzylidene-pyrrolidinium chloride | [Cl-].C(C1=CC=CC=C1)=[N+]1CCCC1
product | 1-Ethyl-2-phenyl-3-(phenylpyrrolidin-1-yl-methyl)-1H-indole | C(C)N1C(=C(C2=CC=CC=C12)C(N1CCCC1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N2
